US08039474B2
a1) 4-Oxo-cyclohexanecarboxylic acid methyl-phenyl-amide
Oxalyl chloride (0.89 g, 7.0 mmol) and a few drops of dry DMF are added to a stirred solution of 4-oxo-cyclohexanecarboxylic acid (0.50 g, 3.5 mmol) in CH2Cl2 (7 ml) and the reaction is kept stirring at rt overnight. The volatiles are removed under reduced pressure, the residue is azeotroped with toluene and dried under high vacuum yielding crude acid chloride. This material is reacted without further purification with N-methylaniline (0.16 g, 1.5 mmol) in CH2Cl2 (7 ml) in the presence of DIEA (0.58 g, 4.5 mmol). After stirring overnight at rt, saturated aqueous NaHCO3 is added and the mixture extracted three times with CH2Cl2. The combined organic layers are dried over Na2SO4 and evaporated. The residue is column chromatographed on silica gel (hexane/EtOAc 2:1) and the title compound is obtained as a pale yellow solid (0.47 g) in 57% yield. tR (LC-4) 0.89 min; ESI-MS (positive ion): m/z 231.98 [M]+ (calcd 231.13 for C14H17NO2).

reactant | Oxalyl chloride | 7.0 mmol, 0.89 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-oxo-cyclohexanecarboxylic acid | 3.5 mmol, 0.50 g | O=C1CCC(CC1)C(=O)O | C7H10O3
reactant | N-methylaniline | 1.5 mmol, 0.16 g | CNC1=CC=CC=C1 | C7H9N
reactant | DIEA | 4.5 mmol, 0.58 g | CCN(C(C)C)C(C)C | C8H19N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | DMF | a few drops | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 7 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 7 ml | C(Cl)Cl | CH2Cl2
product | 4-Oxo-cyclohexanecarboxylic acid methyl-phenyl-amide | 57% yield | CN(C(=O)C1CCC(CC1)=O)C1=CC=CC=C1 | C14H17NO2
